Data/regression/rad6re/fold_0/aam_train.csv
AAM,dh
[O:1]=[C:2]([H:3])[C:4]([H:5])([H:6])[C:7]([O:8][H:9])[C:10]([H:11])([H:12])[H:13]>>[O:1]=[C:2]([H:3])[C:4]([H:5])([H:6])[C:7][C:10]([H:11])([H:12])[H:13].[O:8][H:9],6.08498023258
[H:1][O:2][C:3]([O:4][H:5])=[C:6]([C:7]([H:8])([H:9])[H:10])[C:11]([H:12])([H:13])[H:14]>>[H:1][O:2][C:3]=[C:6]([C:7]([H:8])([H:9])[H:10])[C:11]([H:12])([H:13])[H:14].[O:4][H:5],5.8711672116
[H:1][C:2]([O:3][C:4]([H:5])=[C:6]([H:7])[H:8])[C:9]([H:10])([H:11])[C:12]([H:13])([H:14])[H:15]>>[C:2]([O:3][C:4]([H:5])=[C:6]([H:7])[H:8])[C:9]([H:10])([H:11])[C:12]([H:13])([H:14])[H:15].[H:1],3.805236447850002
[O:1]=[C:2]([H:3])/[C:4](=[C:5](\[H:6])[O:7][H:8])[C:9]([H:10])([H:11])[H:12]>>[H:8].[O:1]=[C:2]([H:3])[C:4]([C:5]([H:6])=[O:7])[C:9]([H:10])([H:11])[H:12],3.7651761102900014
[H:1][C:2]#[C:3][C:4]([H:5])([H:6])[C:7]([H:8])([H:9])[C:10]([H:11])([H:12])[O:13][H:14]>>[C:4]([H:5])([H:6])[C:7]([H:8])([H:9])[C:10]([H:11])([H:12])[O:13][H:14].[H:1][C:2]#[C:3],5.626275864269999
[H:1][C:2]([H:3])=[C:4]([O:6][C:7]([H:8])=[C:9]([H:10])[H:11])[C:12]([H:13])([H:14])[H:15].[H:5]>>[H:1][C:2]([H:3])[C@@:4]([H:5])([O:6][C:7]([H:8])=[C:9]([H:10])[H:11])[C:12]([H:13])([H:14])[H:15],-1.5889970451299995
[C:1][C:2]([H:3])([H:4])[O:5][C:6]#[C:7][H:8].[O:9][H:10]>>[C:1][C:2]([H:3])([H:4])[O:5][C:6](=[C:7][H:8])[O:9][H:10],-3.37450395393
[C:2]#[C:3][C:4]([H:5])([H:6])[H:7].[H:1]>>[H:1][C:2]#[C:3][C:4]([H:5])([H:6])[H:7],-5.97136626119
[H:1][C:2]#[C:3][C:4]([H:5])([H:6])[C:7]([H:8])([H:9])[C:10][C:11]([H:12])([H:13])[H:14]>>[H:14].[H:1][C:2]#[C:3][C:4]([H:5])([H:6])[C:7]([H:8])([H:9])[C:10]=[C:11]([H:12])[H:13],1.92331950043
[H:1][C:2]#[C:3][C:4]([H:5])([H:6])[C:7]([H:8])=[C:9]([H:10])[H:11]>>[H:1][C:2]#[C:3][C:4]([H:5])([H:6])[C:7]=[C:9]([H:10])[H:11].[H:8],4.863076951419999
[C:1]#[C:2][C@:3]([H:4])([O:5][O:6][H:7])[C:8]([H:9])([H:10])[H:11]>>[C:1]#[C:2][C@:3]([H:4])([O:5][O:6])[C:8]([H:9])([H:10])[H:11].[H:7],3.7190522561
[H:1][C:2][O:3][C:4]([H:5])[H:6]>>[H:1][C:2].[O:3]=[C:4]([H:5])[H:6],3.03636039
[H:1][C:2]=[C:3]([O:4][H:5])[C:6]([H:7])([H:8])[C:9]([H:10])[C:11]([H:12])([H:13])[H:14]>>[H:1][C:2]=[C:3]([O:4][H:5])/[C:6]([H:7])=[C:9](\[H:10])[C:11]([H:12])([H:13])[H:14].[H:8],1.69249639572
[C:1][C:2][O:3].[C:4]([H:5])([H:6])[C:7]([H:8])([H:9])[C:10]([H:11])([H:12])[H:13]>>[C:1]#[C:2][O:3][C:4]([H:5])([H:6])[C:7]([H:8])([H:9])[C:10]([H:11])([H:12])[H:13],-1.26440398714
[H:1][C:2]([H:3])[C:4]([H:5])([H:6])[O:7]/[C:8]=[C:9](\[H:10])[C:11]([H:12])([H:13])[H:14]>>[H:10].[H:1][C:2]([H:3])[C:4]([H:5])([H:6])[O:7][C:8]#[C:9][C:11]([H:12])([H:13])[H:14],2.27427243513
[H:1][C:2]([H:3])=[C:4]([C:5]([H:6])([H:7])[H:8])[C:9]([H:10])([H:11])[C:12]([H:13])([H:14])[H:15]>>[H:15].[H:1][C:2]([H:3])=[C:4]([C:5]([H:6])([H:7])[H:8])[C:9]([H:10])([H:11])[C:12]([H:13])[H:14],4.5553531001300005
[H:1][C:2]([H:3])=[C:4]([H:5])[O:6]/[C:7]([H:8])=[C:9]/[C:10]([H:11])([H:12])[H:13]>>[C:7]([H:8])#[C:9][C:10]([H:11])([H:12])[H:13].[H:1][C:2]([H:3])[C:4]([H:5])=[O:6],0.22983624889
[H:1][C:2][O:3][C:4]([H:5])([H:6])[C:7]([H:8])([H:9])[C:10]([H:11])([H:12])[O:13][H:14]>>[H:12].[H:1][C:2][O:3][C:4]([H:5])([H:6])[C:7]([H:8])([H:9])[C:10]([H:11])[O:13][H:14],4.1476335036
[H:7].[O:1][C@@:2]([H:3])([C:4]=[C:5]=[O:6])[C:8]([H:9])([H:10])[H:11]>>[O:1][C@:2]([H:3])([C:4]#[C:5][O:6][H:7])[C:8]([H:9])([H:10])[H:11],-3.04170014805
[H:1][C:2]=[C:3]([H:4])[C:5](=[C:6][H:7])[C:8]([H:9])=[C:10]([H:11])[H:12]>>[H:1][C:2]#[C:3][C:5](=[C:6][H:7])[C:8]([H:9])=[C:10]([H:11])[H:12].[H:4],1.83275715847
[H:5].[O:1]=[C:2]([C:3](=[O:4])[C:6]([H:7])([H:8])[H:9])[C:10]([H:11])([H:12])[H:13]>>[O:1]=[C:2]([C:3]([O:4][H:5])[C:6]([H:7])([H:8])[H:9])[C:10]([H:11])([H:12])[H:13],-2.08646574675
[C:12]([H:13])([H:14])[H:15].[O:1]=[C:2]=[C:3]([C:4]([H:5])([H:6])[H:7])[C:8]([H:9])([H:10])[H:11]>>[O:1]=[C:2]([C:3]([C:4]([H:5])([H:6])[H:7])[C:8]([H:9])([H:10])[H:11])[C:12]([H:13])([H:14])[H:15],-2.067270158
[C:1]#[C:2][C:3]([O:4][H:5])=[C:6]([H:7])[H:8]>>[C:1]#[C:2][C:3][O:4][H:5].[C:6]([H:7])[H:8],6.05114852495
[H:1][O:2][O:3]/[C:4](=[C:5](/[H:6])[C:7]([H:8])([H:9])[H:10])[C:11]([H:12])([H:13])[H:14]>>[C:7]([H:8])([H:9])[H:10].[H:1][O:2][O:3][C:4](=[C:5][H:6])[C:11]([H:12])([H:13])[H:14],4.67697766636
[O:1][O:2][C:3]([H:4])[H:5]>>[C:3]([H:4])[H:5].[O:1]=[O:2],3.57188151
[H:1][C:2]([H:3])[C:4]([H:5])([H:6])[C:7][C:8]#[C:9][C:10]([H:11])([H:12])[H:13]>>[C:2][C:8]#[C:9][C:10]([H:11])([H:12])[H:13].[H:1][C:7]([H:3])=[C:4]([H:5])[H:6],0.714173111161
[H:1][C:2]([H:3])([H:4])[O:5][C:6]([H:7])([H:8])[C:9]([H:10])([C:11]([H:12])([H:13])[H:14])[C:15]([H:16])([H:17])[H:18]>>[H:1][C:2]([H:3])[O:5][C:6]([H:7])([H:8])[C:9]([H:10])([C:11]([H:12])([H:13])[H:14])[C:15]([H:16])([H:17])[H:18].[H:4],4.29786744714
[C:8]([H:9])([H:10])[C:11]([H:12])=[C:13]([H:14])[H:15].[H:1][C:2]([H:3])=[C:4]=[C:5]([H:6])[H:7]>>[H:1][C:2]([H:3])[C:4](=[C:5]([H:6])[H:7])[C:8]([H:9])([H:10])[C:11]([H:12])=[C:13]([H:14])[H:15],-2.2701135182
